US06096758
B1. Methoxycarbonylmethyl (2-hydroxymethyl-3-methylphenyl)carbamate
Starting from methoxycarbonylmethyl chloroformate (11.7 g), 2-amino-6-methylbenzyl alcohol (10.5 g) and pyridine (6.2 ml) in dichloromethane (230 ml), 6.8 g (20%) of the title compound, m.p. 70-74° C., are obtained according to the procedure indicated in Example C1, after chromatography on silica gel (eluent: ethyl acetate/petroleum ether 50/70=1:1) and crystallization from diisopropyl ether.

reactant | methoxycarbonylmethyl chloroformate | 11.7 g | ClC(=O)OCC(=O)OC | C4H5ClO4
reactant | 2-amino-6-methylbenzyl alcohol | 10.5 g | NC1=C(CO)C(=CC=C1)C | C8H11NO
reactant | pyridine | 6.2 ml | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 230 ml | ClCCl | CH2Cl2
product | Methoxycarbonylmethyl (2-hydroxymethyl-3-methylphenyl)carbamate | 6.8 g, 20% | OCC1=C(C=CC=C1C)NC(OCC(=O)OC)=O | C12H15NO5
